US06380218B1
1-(3-Benzyloxy-phenyl)-1H-tetrazole
To a solution of 3-Benzyloxy-phenylamine (1.50 grams, 7.53 mmole) and acetic acid (15 ml) at 70° C. was added a solution of ethyl orthoformate (1.116 g, 7.53 mmole) in acetic acid (4 ml) and stirred for 4 hours. To the solution was added sodium azide (1.468 g, 22.6 mmole) in two portions and stirred for 20 hours at 70° C. The mixture was extracted with ethyl acetate. The combined extracts were washed with saturated sodium hydrogencarbonate and brine, dried over Na2SO4, filtered, and concentrated. The product was purified via flash chromatography on silica using 3/1 hexane/ethyl acetate as eluent to give white crystals (0.650 g). M.P. 85-86° C.; MW 252.25; MS (m/e) 252.8 (M+).

reactant | 3-Benzyloxy-phenylamine | 7.53 mmole, 1.50 grams | C(C1=CC=CC=C1)OC=1C=C(C=CC1)N | C13H13NO
reactant | ethyl orthoformate | 7.53 mmole, 1.116 g | C(OCC)([O-])[O-]
reactant | sodium azide | 22.6 mmole, 1.468 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-(3-Benzyloxy-phenyl)-1H-tetrazole | 0.650 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)N1N=NN=C1 | C14H12N4O
